US07279600B2
4′-Hydroxy-3-methoxy-1,1′-biphenyl-4-carbaldehyde
The title compound was prepared by reacting trifluoro-methanesulfonic acid 4-formyl-3-methoxy-phenyl ester (11.0 mmol) with 4-tert-butyl-dimethylsilyoxyphenyl-boronic acid (3.50 g, 13.86 mmol) according to Method B to yield 880 mg (35%, over two steps) of yellowish solid: mp 159-161° C.; 1H NMR (DMDO-d6): δ 4.01 (3H, s), 6.89 (2H, d, J=8.62 Hz), 7.31 (1H, d, J=8.16 Hz), 7.36 (1H, d, J=1.15 Hz), 7.66 (2H, d, J=8.63 Hz), 7.72 (1H, d, J=8.09 Hz), 9.80 (1H, s), 10.34 (1H, s); mp 159-161° C.; IR 1660 cm−1; MS (ESI) m/z 227 (M−H)−, 229 (M+H)+.

reactant | trifluoro-methanesulfonic acid 4-formyl-3-methoxy-phenyl ester | 11.0 mmol | C(=O)C1=C(C=C(C=C1)OS(=O)(=O)C(F)(F)F)OC | C9H7F3O5S
reactant | 4-tert-butyl-dimethylsilyoxyphenyl-boronic acid | 13.86 mmol, 3.50 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
product | 4′-Hydroxy-3-methoxy-1,1′-biphenyl-4-carbaldehyde | OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=O)OC | C14H12O3
